### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/Pullbacks): Fibred product of affine schemes.

### PR DESCRIPTION
**Pull request by erdOne**
This contribution was created as part of the AIM workshop "Formalizing algebraic geometry" in June 2024.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Pullbacks.lean [hunk 1]
```diff
@@ -620,4 +620,43 @@ instance Scheme.pullback_map_isOpenImmersion {X Y S X' Y' S' : Scheme}
...
   infer_instance
 
+section Spec
+
+variable (R S T : Type u) [CommRing R] [CommRing S] [CommRing T] [Algebra R S] [Algebra R T]
+
+open TensorProduct Algebra.TensorProduct CommRingCat RingHomClass
+
+/-- The isomorphism between the fiber product of two affine schemes `Spec B` and `Spec C`
+over an affine scheme `Spec A` and the `Spec` of the tensor product `B ⊗[A] C`.-/
```
Comment (smorel394) [inline Mathlib/AlgebraicGeometry/Pullbacks.lean:630]:
```suggestion
over an affine scheme `Spec A` and the `Spec` of the tensor product of `B ⊗[A] C`.-/
```

Comment (smorel394) [inline Mathlib/AlgebraicGeometry/Pullbacks.lean:630]:
```suggestion
/-- The isomorphism between the fiber product of two schemes `Spec S` and `Spec T`
over a scheme `Spec R` and the `Spec` of the tensor product `S ⊗[R] T`.-/
```

Comment (smorel394) [reply Mathlib/AlgebraicGeometry/Pullbacks.lean:630]: (I suggest removing the "affine"s because we are working in the category of schemes, and we are saying explicitly that the schemes are `Spec` of something so it is clear that they are affine.)

File: Mathlib/AlgebraicGeometry/Pullbacks.lean [hunk 2]
```diff
@@ -620,4 +620,43 @@ instance Scheme.pullback_map_isOpenImmersion {X Y S X' Y' S' : Scheme}
...
+noncomputable
+def pullbackSpecIso :
+    pullback (Spec.map (CommRingCat.ofHom (algebraMap R S)))
+      (Spec.map (CommRingCat.ofHom (algebraMap R T))) ≅ Spec (.of <| S ⊗[R] T) :=
+  letI H := IsLimit.equivIsoLimit (PullbackCone.eta _)
+    (PushoutCocone.isColimitEquivIsLimitOp _ (CommRingCat.pushoutCoconeIsColimit R S T))
+  limit.isoLimitCone ⟨_, isLimitPullbackConeMapOfIsLimit Scheme.Spec _ H⟩
+
```
Comment (smorel394) [inline Mathlib/AlgebraicGeometry/Pullbacks.lean:638]:
```suggestion
/--
The composition of the inverse of the isomorphism `pullbackSepcIso R S T` (from the pullback of
`Spec S ⟶ Spec R` and `Spec T ⟶ Spec R` to `Spec (S ⊗[R] T)`) with the first projection is
the morphism `Spec (S ⊗[R] T) ⟶ Spec S` obtained by applying `Spec.map` to the ring morphism
`s ↦ s ⊗ₜ[R] 1`.
```

File: Mathlib/AlgebraicGeometry/Pullbacks.lean [hunk 3]
```diff
@@ -620,4 +620,43 @@ instance Scheme.pullback_map_isOpenImmersion {X Y S X' Y' S' : Scheme}
...
+@[reassoc (attr := simp)]
+lemma pullbackSpecIso_inv_fst :
+    (pullbackSpecIso R S T).inv ≫ pullback.fst _ _ = Spec.map (ofHom includeLeftRingHom) :=
+  limit.isoLimitCone_inv_π _ _
+
```
Comment (smorel394) [inline Mathlib/AlgebraicGeometry/Pullbacks.lean:643]: /--
The composition of the inverse of the isomorphism `pullbackSepcIso R S T` (from the pullback of
`Spec S ⟶ Spec R` and `Spec T ⟶ Spec R` to `Spec (S ⊗[R] T)`) with the second projection is
the morphism `Spec (S ⊗[R] T) ⟶ Spec S` obtained by applying `Spec.map` to the ring morphism
`t ↦ 1 ⊗ₜ[R] t`.

Comment (smorel394) [inline Mathlib/AlgebraicGeometry/Pullbacks.lean:643]:
```suggestion
/--
The composition of the inverse of the isomorphism `pullbackSepcIso R S T` (from the pullback of
`Spec S ⟶ Spec R` and `Spec T ⟶ Spec R` to `Spec (S ⊗[R] T)`) with the second projection is
the morphism `Spec (S ⊗[R] T) ⟶ Spec S` obtained by applying `Spec.map` to the ring morphism
`t ↦ 1 ⊗ₜ[R] t`.
```

File: Mathlib/AlgebraicGeometry/Pullbacks.lean [hunk 4]
```diff
@@ -620,4 +620,43 @@ instance Scheme.pullback_map_isOpenImmersion {X Y S X' Y' S' : Scheme}
...
+@[reassoc (attr := simp)]
+lemma pullbackSpecIso_inv_snd :
+    (pullbackSpecIso R S T).inv ≫ pullback.snd _ _ = Spec.map (ofHom (toRingHom includeRight)) :=
+  limit.isoLimitCone_inv_π _ _
+
```
Comment (smorel394) [inline Mathlib/AlgebraicGeometry/Pullbacks.lean:648]:
```suggestion
/--
The composition of the isomorphism `pullbackSepcIso R S T` (from the pullback of
`Spec S ⟶ Spec R` and `Spec T ⟶ Spec R` to `Spec (S ⊗[R] T)`) with the morphism
`Spec (S ⊗[R] T) ⟶ Spec S` obtained by applying `Spec.map` to the ring morphism `s ↦ s ⊗ₜ[R] 1`
is the first projection.
-/
```

File: Mathlib/AlgebraicGeometry/Pullbacks.lean [hunk 5]
```diff
@@ -620,4 +620,43 @@ instance Scheme.pullback_map_isOpenImmersion {X Y S X' Y' S' : Scheme}
...
+@[reassoc (attr := simp)]
+lemma pullbackSpecIso_hom_fst :
+    (pullbackSpecIso R S T).hom ≫ Spec.map (ofHom includeLeftRingHom) = pullback.fst _ _ := by
+  rw [← pullbackSpecIso_inv_fst, Iso.hom_inv_id_assoc]
+
```
Comment (smorel394) [inline Mathlib/AlgebraicGeometry/Pullbacks.lean:653]:
```suggestion
/--
The composition of the isomorphism `pullbackSepcIso R S T` (from the pullback of
`Spec S ⟶ Spec R` and `Spec T ⟶ Spec R` to `Spec (S ⊗[R] T)`) with the morphism
`Spec (S ⊗[R] T) ⟶ Spec T` obtained by applying `Spec.map` to the ring morphism `t ↦ 1 ⊗ₜ[R] t`
is the second projection.
-/
```

**Comment by smorel394** [comment]
It looks good to me. I just added some suggestions of doc strings.

**Comment by joelriou** [comment]
Thanks!

bors merge
